US07365079B2
(2) Preparation of methyl 4-nitro-1-phenyl-1H-pyrazole-3-carboxylate
To a solution of 4-nitro-1H-pyrazole-3-carboxylate (1.0 g, 5.84 mmol) inmethylene chloride (20 mL) were added phenylboric acid (1.43 g, 11.7 mmol), copper(II) acetate (1.60 g, 8.76 mmol) and pyridine (2 mL, 23.4 mmol), and the mixture was stirred overnight at room temperature under an air atmosphere. After removal of the insolubles by filtration, the filtrate was washed with water (twice) and saturated brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain the title compound (1.21 g, 83.5%).

reactant | 4-nitro-1H-pyrazole-3-carboxylate | 5.84 mmol, 1.0 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)[O-]
reactant | phenylboric acid | 11.7 mmol, 1.43 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | pyridine | 23.4 mmol, 2 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 8.76 mmol, 1.60 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | chloride | 20 mL | [Cl-]
product | methyl 4-nitro-1-phenyl-1H-pyrazole-3-carboxylate | 1.21 g, 83.5% | [N+](=O)([O-])C=1C(=NN(C1)C1=CC=CC=C1)C(=O)OC | C11H9N3O4
